US06846826B2
(1) 2-(2-methylphenoxy)ethylbromide
22.4 ml (0.2 mole) of 2-methyiphenol and 34.6 ml (0.4 mole) of ethylene dibromide are mixed and heated at 100° C. The mixture is stirred vigourously with 125 ml 1.6N NaOH, continued heat and stirred till the pH value to 7. Upon cooling, after filtrating the extracted solids, the mixed solution's organic layer is extracted with chloroform and rinsing the extracted solids with NaCl and MgSO4. The generated product is filled into silica gel chromatography columns. The mixture solution of Hexane and Ethylacetate was used as the eluent solution. Upon purification, until white crystallization 2-methyphenoxy)ethylbromide are obtained.

reactant | 2-methyiphenol | 0.2 mole, 22.4 ml | CC1=C(C=CC=C1)O | C7H8O
reactant | ethylene dibromide | 0.4 mole, 34.6 ml | C(CBr)Br | C2H4Br2
reactant | NaOH | 1.6N, 125 ml | [OH-].[Na+]
product | 2-(2-methylphenoxy)ethylbromide | CC1=C(OCCBr)C=CC=C1 | C9H11BrO
